US07671066B2
A solution of 3,4-dihydroxybenzaldehyde (16.6 g, 120 mmol) and sodium chlorodifluoroacetate (18.3 g, 120 mmol) in dimethylformamide (150 ml) and water (3 ml) was added with sodium hydroxide (4.8 g, 120 mmol), heated to 120° C. and stirred at this temperature for 2 hrs. The solvent was removed by vacuum distillation and the residue added with aqueous hydrochloric acid (20 ml). The mixture was extracted with diethyl ether (2×50 ml), the combined organic layers were washed with water and brine and the solvent removed under reduced pressure. The crude product was purified by chromatography on silica gel (hexane/ethyl acetate 8:2) to furnish 4-difluoromethoxy-3-hydroxybenzaldehyde as a colourless solid (10 g, 52.8 mmol, 44% yield).

reactant | 3,4-dihydroxybenzaldehyde | 120 mmol, 16.6 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | sodium chlorodifluoroacetate | 120 mmol, 18.3 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | sodium hydroxide | 120 mmol, 4.8 g | [OH-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
product | 4-difluoromethoxy-3-hydroxybenzaldehyde | 52.8 mmol, 10 g, 44% yield | FC(OC1=C(C=C(C=O)C=C1)O)F | C8H6F2O3
